US07368572B2
Sodium hydride (32.5 mg, 1.35 mmol) was added to a solution of methyl 4-hydroxy-benzofuran-2-ylcarboxylate (240 mg, 1.25 mmol) in DMF (5 ml). After stirring for 10 min methyl iodide (888 mg, 6.25 mmol) was added and stirring was continued for an additional 1 h. The reaction was carefully quenched with water (30 ml) and diluted with ethyl acetate (50 ml). The separated organic layer was washed with 0.5M aqueous HCl, saturated aqueous sodium bicarbonate solution (50 ml), dried over sodium sulfate, and concentrated in vacuo to give pure methyl 4-methoxy-benzofuran-2-ylcarboxylate (257 mg, 1.25 mmol) as a white solid.

reactant | Sodium hydride | 1.35 mmol, 32.5 mg | [H-].[Na+]
reactant | methyl 4-hydroxy-benzofuran-2-ylcarboxylate | 1.25 mmol, 240 mg | OC1=CC=CC2=C1C=C(O2)C(=O)OC | C10H8O4
reactant | methyl iodide | 6.25 mmol, 888 mg | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-methoxy-benzofuran-2-ylcarboxylate | 1.25 mmol, 257 mg | COC1=CC=CC2=C1C=C(O2)C(=O)OC | C11H10O4
